US05587386
8-tert-butoxycarbonylamino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane:
To an ice-cooled solution of 2.9 g of 8-amino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane in 30 ml of tetrahydrofuran there was added 3.3 g of 2-(tertbutoxycarbonyl-amino)-2-phenylacetonitrile and the resulting mixture was stirred at room temperature for 30 min. The solvent was removed under reduced pressure, and ethyl acetate was added to the resulting residue. The mixture was washed with a 1N sodium hydroxide aqueous solution three times and then dried. The solvent was removed under reduced pressure and the resulting residue was purified by column chromatography using 50 g of silica gel. The column was eluted with chloroform, chloroform containing methanol and 4.1 g of the titled compound was obtained from a eluate when the eluant was chloroform containing 1% (v/v) of methanol.

reactant | 8-amino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane | 2.9 g | NC1CN(CC12CCC2)[C@H](C)C2=CC=CC=C2 | C15H22N2
reactant | 2-(tertbutoxycarbonyl-amino)-2-phenylacetonitrile | 3.3 g | C(C)(C)(C)OC(=O)NC(C#N)C1=CC=CC=C1 | C13H16N2O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 8-tert-butoxycarbonylamino-6-[1-(R)-phenylethyl]-6-azaspiro[3.4]octane | 4.1 g | C(C)(C)(C)OC(=O)NC1CN(CC12CCC2)[C@H](C)C2=CC=CC=C2 | C20H30N2O2
